US09303007B2
Diethylzinc (19 mL of ˜1.1 M in toluene, 21 mmol) was added dropwise over 15 min to a cooled (−30° C.) toluene (27 mL) solution of (S)-tert-butyl 2-((tert-butyldiphenylsilyloxy)methyl)-2,3-dihydro-1H-pyrrole-1-carboxylate (3.94 g, 9.0 mmol). Chloroiodomethane (stabilized over copper; 3.0 mL, 41 mmol) was added dropwise over 10 min and stirred while maintaining the bath temperature at −25° C. for 1 h and between −25° C. and −21° C. for 18.5 h. The reaction mixture was opened to the air and quenched by the slow addition of 50% saturated NaHCO3 solution (40 mL) and then removed from the cooling bath and stirred at ambient temperature for 20 min. The reaction mixture was filtered through a filter paper and the white cake was washed with 50 mL of toluene. The organic phase of the filtrate was separated and washed with water (40 mL, 2×), dried (MgSO4) and concentrated in vacuo. The crude material was purified using by silica gel chromatography (350 g silica gel; sample was loaded with 7% EtOAc/hexanes; eluted with 7-20% EtOAc/hexanes) to afford (3S)-tert-butyl 3-((tert-butyldiphenylsilyloxy)methyl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (3.69 g, 90.7%) as a mixture of cis/trans-isomers. [Note: the exact cis/trans-isomer ratio was not determined at this stage]. LC-MS: [M+Na]+=474.14. Rt=2.39 min under the following HPLC conditions: Solvent gradient from 100% A: 0% B to 0% A: 100% B (A=0.1% TFA in 1:9 MeOH/water; B=0.1% TFA in 9:1 MeOH/water) over 2 min and hold for 1 min; detection at 220 nm; PHENOMENEX® Luna 3.0×50 mm S10 column. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.62-7.60 (m, 4H), 7.49-7.40 (m, 6H), 3.77/3.67 (overlapping br s, 3H), 3.11-3.07 (m, 1H), 2.23 (app br s, 1H), 2.05-2.00 (m, 1H), 1.56-1.50 (m, 1H), 1.33 (very broad s, 9H), 1.00 (s, 9H), 0.80 (m, 1H), 0.30 (m, 1H).

reactant | Diethylzinc | 21 mmol, ˜1.1 M, 19 mL | C(C)[Zn]CC
reactant | (S)-tert-butyl 2-((tert-butyldiphenylsilyloxy)methyl)-2,3-dihydro-1H-pyrrole-1-carboxylate | 9.0 mmol, 3.94 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H]1N(C=CC1)C(=O)OC(C)(C)C | C26H35NO3Si
reactant | Chloroiodomethane | 41 mmol, 3.0 mL | ClCI | CH2ClI
solvent | toluene | 27 mL | C1(=CC=CC=C1)C | C7H8
product | (3S)-tert-butyl 3-((tert-butyldiphenylsilyloxy)methyl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 3.69 g, 90.7% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H]1N(C2CC2C1)C(=O)OC(C)(C)C | C27H37NO3Si
